US04394508
3-{2-[(5-Guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide
When a methanolic solution of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is successively treated with an equimolar amount of 2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamine [prepared according to the procedure described in published European Patent Application 6286] and excess methylamine, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(5-guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamine | N(C(=N)N)C1=NC(=NO1)CSCCN | C6H12N6OS
reactant | methylamine | CN | CH5N
product | 3-{2-[(5-Guanidino-1,2,4-oxadiazol-3-yl)methylthio]ethylamino}-4-methylamino-1,2,5-thiadiazole 1,1-dioxide | N(C(=N)N)C1=NC(=NO1)CSCCNC1=NS(N=C1NC)(=O)=O | C9H15N9O3S2
